US06121462
The upper reaction scheme is the conversion of the N-tertiarybutyl,3,3 dinitroazetidine to the N-acetyl, 3,3 dinitroazetidine. The reaction conditions are a catalytic amount of boron trifluoride etherate as the Lewis acid and acetic anhydride as the solvent-reactant. The temperature is 125 degrees C. As shown there was about a 90% yield. The compound is nitrated with 70% nitric acid and heated to give TNAZ.

reactant | N-tertiarybutyl,3,3 dinitroazetidine | C(C)(C)(C)N1CC(C1)([N+](=O)[O-])[N+](=O)[O-] | C7H13N3O4
reactant | 3,3 dinitroazetidine | [N+](=O)([O-])C1(CNC1)[N+](=O)[O-] | C3H5N3O4
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | TNAZ | 90% yield | C1C(CN1[N+](=O)[O-])([N+](=O)[O-])[N+](=O)[O-] | C3H4N4O6
